US07598240B2
Concentrated sulfuric acid (1 ml) was added to a solution of the 2-bromo-5-(4-methoxyphenyl)pentanoic acid crude product (Reference Example 37) (1000 mg) in ethanol (15 ml) at room temperature and the resulting mixture was heated under reflux for 2 hours. After being allowed to cool to room temperature, the reaction solution was poured into water (50 ml) and extracted with ethyl acetate (50 ml). The organic layer was washed with a saturated aqueous sodium hydrogencarbonate solution (30 ml) and a saturated aqueous sodium chloride solution (30 ml) and then dried over sodium sulfate. The dried organic layer was concentrated under reduced pressure and the crude product thus obtained was purified by HPLC to obtain ethyl 2-bromo-5-(4-methoxyphenyl)pentanoate (740 mg).

reactant | sulfuric acid | 1 ml | S(O)(O)(=O)=O | H2O4S
reactant | 2-bromo-5-(4-methoxyphenyl)pentanoic acid | BrC(C(=O)O)CCCC1=CC=C(C=C1)OC | C12H15BrO3
reactant | water | 50 ml | O | H2O
reactant | ethanol | 15 ml | C(C)O | C2H6O
product | ethyl 2-bromo-5-(4-methoxyphenyl)pentanoate | 740 mg | BrC(C(=O)OCC)CCCC1=CC=C(C=C1)OC | C14H19BrO3
